US05338857
Added to 3 ml of dioxane were 2.0 g (9.3 mmol) of 3-phenyl-4-propionyl-5-methylisoxazole prepared above in the procedure (2), 1.4 g (11.6 mmol) of piperidine hydrochloride, 0.4 g ( 13.3 mmol ) of paraformaldehyde and 3 droplets of 12N-hydrochloric acid. The resultant mixture was heated under reflux for 30 minutes. After completion of the reaction, water and ethyl ether were added, followed by separation of a water layer. An aqueous solution of sodium carbonate was added to the water layer to alkalinize the same, followed by extraction with ethyl ether. The organic layer was dried and the solvent was distilled off, whereby a Mannich base, namely, 3-phenyl-5-methyl-4-(2-methyl-3-piperidinopropionyl) isoxazole was obtained as oil. Analytical results were as follows: Yield: 2.1 g (72.4%).

reactant | 3-phenyl-4-propionyl-5-methylisoxazole | 9.3 mmol, 2.0 g | C1(=CC=CC=C1)C1=NOC(=C1C(CC)=O)C | C13H13NO2
reactant | piperidine hydrochloride | 11.6 mmol, 1.4 g | Cl.N1CCCCC1
reactant | paraformaldehyde | 13.3 mmol, 0.4 g | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 3-phenyl-5-methyl-4-(2-methyl-3-piperidinopropionyl) isoxazole | C1(=CC=CC=C1)C1=NOC(=C1C(C(CN1CCCCC1)C)=O)C | C19H24N2O2
